Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
morphine / Flagyl / Penicillins
 
Attending: ___.
 
Chief Complaint:
cardiogenic shock, ___ NSTEMI

 
Major Surgical or Invasive Procedure:
-Endotracheal intubation and extubation
-Cordis introducer with Swan catheter placement and removal
-IABP placement and removal  
 
History of Present Illness:
___ M with known coronary artery disease elective cath ___ 
(patent stent in pLCx, severe mRCA disease, was revascularized 
at ___) now is transferred from outside hospital with 
cardiogenic shock ___ NSTEMI. 

Patient originally presented to ___ with SOB on 
___. He was initially treated for CAP with antibiotics 
(vanc/levaquin/aztreonam). However, the patient developed 
worsening SOB, hypoxia, and was transferred to CCU and started 
bipap for CHF. He was eventually intubated on ___, difficulty 
with ventilation, placed on APRV. CXR showed asymmetric 
pulmonary edema vs multilobar PNA. ECG showed lateral STD, 
elevated troponin >70 this AM. 

Patient was started on dopamine/neo gtt's and placed on lasix 
gtt (which was now off after not having significant response). 
Echo showed 45% EF. He has developed ___ to creatinine 3.6. He 
also was on heparin gtt. He made 40-50 cc UOP enroute.

In Cath lab at ___:
RHC PCWP 35, PA 56/35, CI 2.2, mean gradient of 15mmHg, ___ 
0.9cm2
Cors: 90% ISR of BMS of LCx, LM ok. pLAD thrombosis 95% lesion, 
RCA stent patent. NO STENT WAS PLACED. IABP WAS PLACED.
 
Past Medical History:
-CAD
-Carotid artery disease
-Peripheral artery disease
-HTN
-HL
-GERD
-H/o seizure d/o
-H/o prostate cancer
-H/o colonc cancer

PSH:
-S/p PTCA with stent to the LCx and RCA
-S/p craniotomy
-S/p partial colon resection
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
ON ADMISSION:
Gen: intubated, sedated
HEENT: PERRLA 
NECK: supple
CV: regular rate and rhythm, no murmurs appreciated
LUNGS: rhonchorous sounds anteriorly
ABD: soft, nontender, nondistended, BS present
EXT: cool, no lower extremity edema,
PULSES: dopplerable DP, ___ bilaterally

ON DISCHARGE:
VITALS: Tmax 98.6 Tc 98.5 HR 65-69 BP ___ RR ___ 
SpO2 92-95% RA, Wt 66.3 kg
I/O: 600/700, 8h NR/NR
Gen: Well-appearing in NAD
HEENT: PERRLA, EOMI, MM
NECK: supple, JVP to 8
CV: regular rate and rhythm, no murmurs appreciated
LUNGS: rhonchorous sounds anteriorly, crackles at bilateral 
bases
ABD: soft, nontender, nondistended, BS present, R groin site 
with wound dressing with dried blood
EXT: warm extremities, no lower extremity edema
GU: foley in place with yellow urine
Neuro: CN II-XII intact, moving all extremities, oriented x3
 
Pertinent Results:
ADMISSION LABS:
================
___ 07:08PM BLOOD WBC-18.1* RBC-3.56* Hgb-12.1* Hct-33.3* 
MCV-94 MCH-34.0* MCHC-36.2* RDW-13.9 Plt ___
___ 07:08PM BLOOD Plt ___
___ 07:08PM BLOOD ___ PTT-85.8* ___
___ 07:08PM BLOOD Glucose-178* UreaN-67* Creat-3.3* Na-141 
K-4.7 Cl-110* HCO3-14* AnGap-22*
___ 07:08PM BLOOD CK(CPK)-3474*
___ 07:08PM BLOOD CK-MB-275* MB Indx-7.9* cTropnT-8.75*
___ 07:08PM BLOOD Calcium-7.6* Phos-5.6* Mg-2.1
___ 07:17PM BLOOD Type-ART Temp-36.4 pO2-84* pCO2-35 
pH-7.30* calTCO2-18* Base XS--7 Intubat-INTUBATED
___ 09:29PM BLOOD Type-MIX
___ 09:32PM BLOOD Type-ART pO2-68* pCO2-31* pH-7.32* 
calTCO2-17* Base XS--8
___ 01:17AM BLOOD Type-ART pO2-82* pCO2-29* pH-7.34* 
calTCO2-16* Base XS--8
___ 07:17PM BLOOD Lactate-1.3
___ 09:29PM BLOOD O2 Sat-59
___ 09:32PM BLOOD O2 Sat-92

PERTINENT LABS:
================
___ 02:17PM BLOOD Glucose-185* UreaN-72* Creat-3.2* Na-140 
K-4.6 Cl-108 HCO3-19* AnGap-18
___ 05:40AM BLOOD Glucose-106* UreaN-30* Creat-1.2 Na-139 
K-3.6 Cl-103 HCO3-25 AnGap-15
___ 01:10AM BLOOD CK-MB-236* cTropnT-12.64*
___ 05:33AM BLOOD CK-MB-211* MB Indx-8.5* cTropnT-13.63*
___ 05:15AM BLOOD CK-MB-62* MB Indx-5.6 cTropnT-8.78*
___ 04:47AM BLOOD ALT-52* AST-55* AlkPhos-91 TotBili-0.7
___ 05:00AM BLOOD %HbA1c-5.7 eAG-117
___ 09:10PM URINE Color-Straw Appear-Clear Sp ___
___ 09:10PM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 09:10PM URINE RBC-2 WBC-3 Bacteri-NONE Yeast-NONE Epi-0

DISCHARGE LABS:
================
___ 07:15AM BLOOD WBC-8.2 RBC-2.95* Hgb-9.5* Hct-27.2* 
MCV-92 MCH-32.3* MCHC-35.0 RDW-14.8 Plt ___
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD Glucose-113* UreaN-22* Creat-1.3* Na-138 
K-4.2 Cl-108 HCO3-18* AnGap-16
___ 04:47AM BLOOD ALT-52* AST-55* AlkPhos-91 TotBili-0.7
___ 05:15AM BLOOD CK-MB-62* MB Indx-5.6 cTropnT-8.78*
___ 07:15AM BLOOD Calcium-8.9 Phos-3.7 Mg-1.8
___ 08:44PM BLOOD Type-CENTRAL VE pO2-42* pCO2-54* pH-7.43 
calTCO2-37* Base XS-9
___ 09:54AM BLOOD O2 Sat-65
___ 09:54AM BLOOD freeCa-1.15

IMAGING:
================
ECG (___):
Sinus rhythm. Prior anteroseptal myocardial infarction, age 
undetermined. 
Inferolateral ST-T wave changes, likely due to left ventricular 
hypertrophy. Cannot exclude ischemia. No previous tracing 
available for comparison. 

CXR (___):
ET tube terminates 3.5 cm above Carina. Left IJ CVC terminates 
in the upper SVC. Inflated IABP is in appropriate position. 
Moderate to severe pulmonary edema and pleural effusions, 
probable CHF. 

TTE (___):
There is mild symmetric left ventricular hypertrophy with normal 
cavity size. Overall left ventricular systolic function is 
severely depressed with inferior and inferolateral akinesis and 
lateral hypokinesis (LVEF= ___ %). The right ventricular 
cavity is dilated with depressed free wall contractility. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets are severely 
thickened/deformed. There is severe aortic valve stenosis (valve 
area <1.0cm2). Trace aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. The tricuspid valve 
leaflets are mildly thickened. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 

IMPRESSION: Severe left ventricular systolic dysfunction as 
described above. Dilated and hypokinetic right ventricle (a 
catheter is seen to traverse the RV towards the PA). Severely 
thickened aortic valve with likely severe stenosis - gradients 
are relatively low due to poor LV systolic dysfunction.  

CXR (___):
The previous radiograph, there is a minimal increase in extent 
of the 
bilateral pleural effusions. Otherwise, the radiograph is 
unchanged. Moderate cardiomegaly. Bilateral areas of 
atelectasis.  Moderate pulmonary edema. No pneumonia. No 
pneumothorax.

CXR (___):
Lung volumes have improved and previous bibasilar atelectasis 
and moderate pleural effusions have nearly cleared.  There is 
the suggestion of new consolidation in the right upper lung, 
where there was substantial 
consolidation on ___ raising possibility of recurrent 
pneumonia, often due to aspiration. Heart is normal size.

Carotid Ultrasound (___):
Less than 40% stenosis of bilateral ICA. 
  
Teeth Panorex (___): pending 

MICROBIOLOGY:
===================
-Sputum Cx (___): contaminant
-Blood Culture, Routine (Final ___: NO GROWTH x 2
-___ 3:35 pm SPUTUM Source: Endotracheal. 
GRAM STAIN (Final ___: 
  >25 PMNs and <10 epithelial cells/100X field. 
  2+ ___ per 1000X FIELD): GRAM POSITIVE COCCI. IN PAIRS AND 
CLUSTERS. 
RESPIRATORY CULTURE (Final ___: SPARSE GROWTH Commensal 
Respiratory Flora.

 
Brief Hospital Course:
___ M with known coronary artery disease elective cath ___ 
(patent stent in pLCx, severe mRCA disease, was revascularized 
at ___) now is transferred from outside hospital with mixed 
(cardiogenic/septic) shock ___ NSTEMI and presumed pneumonia. 

# Acute hypoxemic respiratory failure: Multifactorial, initially 
due to pulmonary edema but persisted when swan numbers showed he 
was adequately diuresed. CXR showed mild bilateral infiltrates 
and was treated with cefepime for HCAP course. He was also given 
nebs PRN and continued to be diuresed with Lasix. The patient 
was weaned to room air at the time of discharge. 

# Cardiogenic shock ___ NSTEMI: Patient presented unstable with 
NSTEMI. Became hypotensive at OSH cath lab requiring IABP. He 
was placed on dobutamine and norepinephrine, however was weaned 
off IABP and pressors. No stent was placed. Patient was seen by 
cardiac surgery for revascularization and will see Dr. ___ as 
outpatient with plan for CABG in 1 month. He was continued on 
ASA, ___, and metoprolol and Plavix. Plavix will need to be held 
one week prior to CABG. 

# Acute decompensated systolic heart failure: TTE on ___ with 
EF ___ secondary to ischemic cardiomyopathy. He was diuresed 
aggressively and was transitioned to PO lasix upon discharge. He 
was continued on metoprolol and losartan.  
 
# New Paroxysmal Afib: CHADS = 3. Converted to sinus rhythm and 
was thought to be triggered by ischemia. He was started on 
amiodarone, continued on metoprolol and was kept on heparin gtt. 
He was discharged on Apixiban 5 mg PO BID and Metoprolol 
Succinate 150 mg PO Q12H. 

# Dysphagia: During his hospitalization, there was a concern for 
aspiration. The patient was evaluated by Speech and Swallow and 
a video swallow was performed which was unremarkable for 
oropharyngeal dysphagia, but more concerning for esophageal 
dysmotility. The patient's diet was changed to regular with thin 
liquids. The patient was managed on an H2 blocker and will 
followup with gastroenterology at discharge. 

# Acute Kidney Injury: Baseline Cr 1.2 with admission Cr of 3.6. 
Etiology most likely pre-renal in setting of hypotension from 
cardiogenic shock vs cardiorenal from volume overload. After 
aggressive diuresis, Cr improved back to baseline. 

#Stage II Sacral Decubitus Ulcer: Patient was found to have a 
decubitus ulcer. Patient was evaluated by the wound nurse with 
___ precautions given. 

TRANSITIONAL ISSUES:
[]CODE STATUS: Full 
[]Discharge to Rehab with TELEMETRY
[]Patient will need CBC check on ___
[]Patient discharged on Metoprolol Succinate 150 mg PO Q12H and 
Apixiban 5 mg PO BID for Afib
[]Patient will continue Amiodarone taper 200 mg PO BID x 2 weeks 
(___) followed by 200 mg PO ___ 
[]Patient discharged on Losartan 50 mg PO ___
[]Patient discharged on Clopidogrel 75 mg PO ___ need 
to be held one week prior to CABG 
[]Patient discharged on Lasix 20 mg PO ___
[]Consider adding spironolactone when medically optimized
[]Patient will need Gastroenterology followup to workup of 
esophageal dysmotility 
[]Discharge diet: Regular with thin liquids
[]Discharge Weight: 66.3 kg
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
2. NIFEdipine CR 90 mg PO DAILY 
3. Cilostazol 100 mg PO BID 
4. Aspirin 81 mg PO DAILY 
5. Atorvastatin 80 mg PO QPM 
6. Clopidogrel 75 mg PO DAILY 
7. Cyanocobalamin 500 mcg PO DAILY 
8. FoLIC Acid 0.4 mg PO DAILY 
9. Metoprolol Succinate XL 100 mg PO QAM 
10. Valsartan 160 mg PO BID 
11. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
12. Pantoprazole 40 mg PO Q12H 
13. solifenacin 10 mg oral QAM 
14. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
15. Multivitamins 1 TAB PO DAILY 
16. HydrALAzine 10 mg PO BID 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Clopidogrel 75 mg PO DAILY 
4. Metoprolol Succinate XL 150 mg PO Q12H 
5. Benzonatate 200 mg PO TID 
6. Cepastat (Phenol) Lozenge 1 LOZ PO Q2H:PRN throat 
7. Docusate Sodium (Liquid) 100 mg PO BID 
8. Famotidine 20 mg PO DAILY 
9. Fluticasone Propionate 110mcg 2 PUFF IH BID 
10. Furosemide 20 mg PO DAILY 
11. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
12. Amiodarone 200 mg PO BID 
Amiodarone taper 200 mg PO BID x 2 weeks (___) followed 
by 200 mg PO ___ 
 
13. FoLIC Acid 0.4 mg PO DAILY 
14. Cilostazol 100 mg PO BID 
15. Cyanocobalamin 500 mcg PO DAILY 
16. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
17. Multivitamins 1 TAB PO DAILY 
18. Pantoprazole 40 mg PO Q12H 
19. Losartan Potassium 50 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
Non-ST Elevation Myocardial Infarction (NSTEMI)
Cardiogenic Shock
Coronary Artery Disease 
Acute Systolic Cardiomyopathy
Atrial Fibrillation
Heatlh-Care Associated Pneumonia
Acute Kidney Injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___. You were admitted after a major heart attack and 
heart failure. You received life support and medical therapy in 
the cardiac ICU with improvement. The heart problems may have 
been exacerbated by the stress of your pneumonia, from which you 
are still recovering. Our cardiac surgeons felt that bypass 
surgery may be beneficial, and we recommend your breathing 
status and strength improve before undergoing this procedure.

Please see below for your medication changes. Please take your 
medications as instructed. Please followup with your primary 
care physician, ___, and heart surgeon. If you develop 
any worsening chest pain, shortness of breath, lightheadedness, 
or lower leg swelling, please medical attention urgently.

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___